US06307051B1
4-(4-chloromethyl-phenylmethoxy)-2-isopropylidenecoumaran-3-one
2.8 g Potassium carbonate is added over 3 hours to a mixture of 3.8 g 4-hydroxy-2-isopropylidenecoumaran-3-one, 3.5 g 1,4-bis-(chloromethyl)benzene and 150 ml butanone at 70-75° C. The mixture is refluxed for 16 hours, then filtered, the filtrate evaporated and the residue purified by silica gel chromatography (eluent isohexane/ethyl acetate 3:1) to give 1.3 g of the desired intermediate.

reactant | Potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-hydroxy-2-isopropylidenecoumaran-3-one | 3.8 g | OC1=C2C(C(OC2=CC=C1)=C(C)C)=O | C11H10O3
reactant | 1,4-bis-(chloromethyl)benzene | 3.5 g | ClCC1=CC=C(C=C1)CCl | C8H8Cl2
solvent | butanone | 150 ml | CC(CC)=O | C4H8O
product | 4-(4-chloromethyl-phenylmethoxy)-2-isopropylidenecoumaran-3-one | 1.3 g | ClCC1=CC=C(C=C1)COC1=C2C(C(OC2=CC=C1)=C(C)C)=O | C19H17ClO3
